US07183270B2
Part B. Preparation of 4,6-Dichloro-2-trifluoromethyl quinazoline
6-Chloro-2-trifluoromethyl-quinazolin-4-ol (1.35 g, 5.43 mmol, 1 eq.), phosphorous oxychloride (4.88 mL, 52.4 mmol, 9.64 eq.) and triethylamine (2.43 mL, 17.4 mmol, 3.21 eq.) were refluxed for 2 hours. Stripped 3× from methylene chloride then dissolved in methylene chloride and rinsed 3× with saturated sodium bicarbonate, 1× with brine. Dried and stripped in vacuo to give an amber oil. Purified over silica gel in 9:1 Hexanes/EtOAc. Obtained 800 mg of off-white solids as product. The product was used immediately in Example 1 Part C.

reactant | 6-Chloro-2-trifluoromethyl-quinazolin-4-ol | 5.43 mmol, 1.35 g, 1 eq. | ClC=1C=C2C(=NC(=NC2=CC1)C(F)(F)F)O | C9H4ClF3N2O
reactant | phosphorous oxychloride | 52.4 mmol, 4.88 mL, 9.64 eq. | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 17.4 mmol, 2.43 mL, 3.21 eq. | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4,6-Dichloro-2-trifluoromethyl quinazoline | 800 mg | ClC1=NC(=NC2=CC=C(C=C12)Cl)C(F)(F)F | C9H3Cl2F3N2
